US07459448B2
2-(Benzo[1,3]dioxol-5-ylamino)-9-chloro-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one (I-34)
In a manner similar to that described for method I, 8-chloro-4-dimethylaminomethylene-3,4-dihydro-1H-benzo[b]azepine-2,5-dione (v-j) and N-benzo[1,3]dioxol-5-yl-guanidine nitrate were converted to I-34 (32%): HRMS Calcd. for C19H13ClN4O3: 381.0754, Found 381.0759.

reactant | 8-chloro-4-dimethylaminomethylene-3,4-dihydro-1H-benzo[b]azepine-2,5-dione | ClC=1C=CC2=C(NC(CC(C2=O)=CN(C)C)=O)C1 | C13H13ClN2O2
reactant | N-benzo[1,3]dioxol-5-yl-guanidine nitrate | [N+](=O)(O)[O-].O1COC2=C1C=CC(=C2)NC(=N)N
product | 2-(Benzo[1,3]dioxol-5-ylamino)-9-chloro-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one | O1COC2=C1C=CC(=C2)NC=2N=CC1=C(C3=C(NC(C1)=O)C=C(C=C3)Cl)N2 | C19H13ClN4O3
